US06235771B1
To a suspension of polyphosphoric acid (38.3 g) in toluene (400 ml) was added 4-methoxy-(2,2-dimethoxy)ethoxybenzene (38.0 g), and the mixture was stirred at 100° C. overnight and cooled. To the mixture was added water, and the mixture was separated. The organic layer was washed with 1N sodium hydroxide solution and then washed with saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography to give brown oil of 5-methoxybenzofuran (6.5 g).

reactant | 4-methoxy-(2,2-dimethoxy)ethoxybenzene | 38.0 g | COC1=CC=C(C=C1)OCC(OC)OC | C11H16O4
reactant | water | O | H2O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methoxybenzofuran | 6.5 g | COC=1C=CC2=C(C=CO2)C1 | C9H8O2
